### PR TITLE
Use multiple statements to implement interactive fixpoints

### PR DESCRIPTION
**Pull request by herbelin**
Interactive co/fixpoints (and `Theorem with`) used to declare a single proof starting with a dummy `Fix`. We reimplement it using the proof engine support for multiple statements.

This will allow to share the infrastructure for interactive fixpoints and `Derive` and this makes useless the copy of the types in the `CInfo.t` of proofs.

Depends on:
- #18795
- #19075 (in a minor way, via #19090)
- #19090

### CODE REVIEW

**Comment by ejgallego** [comment]
I'm not sure what the status of https://github.com/coq/coq/issues/10363 is, but last time I looked the proof engine API for multiple statements was in need of serious work. But this may be an interesting experiment, let's see what the CI yields

(Tho I wouldn't be very surprised if we don't stress the particular corner cases that could be problematic)

**Comment by herbelin** [comment]
> the particular corner cases that could be problematic

Are you suggesting possible issues if we use `abstract` in a fixpoint implemented with multiple statements? I just tried with #19092 and it produces exactly the same term, that is each body of the final constants is abstracted relatively to the abstracted subproofs.

In the case of `Derive`, I have:
```coq
Require Import Derive.
Derive f SuchThat (f = 0) As spec.
unfold f. abstract reflexivity.
Qed.
Print spec.
(* spec = spec_subproof : f = 0 : f = 0 *)
Print f.
(* f = 0 : nat *)
```
Or do you mean something else?

**Comment by ejgallego** [comment]
Back in the day I meant that we duplicated side effects on each entry, this seems un/under-specified.

**Comment by herbelin** [comment]
I would need a definition of "side effects". If it is about `abstract`, is the following as expected:
```coq
Fixpoint f (n:nat) : nat with g (n:nat) : nat.
- abstract (exact 0).
- exact 0.
Qed.
Print f.
(* (fun f_subproof : nat => fix f (n : nat) : nat := f_subproof with g (n : nat) : nat := 0 for f) 0 *)
Print g.
(* (fun f_subproof : nat => fix f (n : nat) : nat := f_subproof with g (n : nat) : nat := 0 for g) 0 *)
```
```coq
Fixpoint f (n:nat) : nat with g (n:nat) : nat.
- abstract (exact 0).
- exact 0.
Defined.
Print f.
(* fix f (n : nat) : nat := f_subproof with g (n : nat) : nat := 0 for f *)
Print g.
(* fix f (n : nat) : nat := f_subproof with g (n : nat) : nat := 0 for g *)
Print f_subproof.
(* f_subproof = 0 *)
```

**Comment by herbelin** [comment]
Note: was CI green before last (trivial) rebase.

**Review by ppedrot — APPROVED** [review]
Probably OK?

**Comment by SkySkimmer** [comment]
@ppedrot are you assigning?

**Comment by ppedrot** [comment]
@coqbot run full ci

**Review by SkySkimmer — COMMENTED** [review]
We don't have a lot of tests of Guarded, there seem to be a couple with `fix`/`cofix` tactic, and #18308 with (non mutual) Fixpoint.
For Fail Guarded there are only tests with `fix` tactic (#18006 and failure/fixpoint2).

Does it still work properly after this PR? In fact it may work better, for instance in master we get
~~~coq
(* foo structural on 1st arg, bar on 2nd arg *)
Lemma foo : nat -> nat -> bool
with bar : nat -> nat -> bool.
Proof.
  Fail Guarded. (* not enough abstractions in the definition *)
  all:intros n m.
  Guarded.
  - destruct n as [|n].
    + exact (bar 0 0).
      Fail Guarded. (* failure is correct here *)
      Undo 2.
      exact true.
    + Guarded.
      exact (bar m n).
  - Fail Guarded. (* recursive def of foo ill formed, recursive call to bar ... *)
    destruct m as [|m].
    + exact false.
    + exact (foo m n).
      Fail Guarded. (* same error *)
Defined. (* Fail Guarded but Qed! *)
~~~
The 3rd and 4th Fail Guarded have a good chance of being fixed in this PR (AFAICT they are caused by the initial body assuming an incorrect structural element, this PR removes that), not sure about the 1st.

**Comment by herbelin** [comment]
Thanks for the remark. That's a very good point. Actually the PR breaks `Guarded`. I'll see if I can make it work as you describe.

**Comment by herbelin** [comment]
Seizing the opportunity of adapting `Guarded` to experiment more detailed explanations of why guard fails (see test-suite).

File: vernac/declare.ml [hunk 1]
```diff
@@ -1881,6 +1870,53 @@ let prepare_proof ?(warn_incomplete=true) { proof } =
   in
   proofs, Evd.evar_universe_context evd
 
+exception NotGuarded of
+    Environ.env * Evd.evar_map *
+    (Environ.env * int * EConstr.t Type_errors.pcofix_guard_error) option *
+    (Environ.env * int * int list * EConstr.t Type_errors.pfix_guard_error) list *
+    EConstr.rec_declaration
+
+let _ = CErrors.register_handler (function
```
Comment (SkySkimmer) [inline vernac/declare.ml:1879]:
```suggestion
let () = CErrors.register_handler (function
```

File: test-suite/output/Fixpoint.out [hunk 2]
```diff
@@ -35,3 +35,89 @@ File "./output/Fixpoint.v", line 75, characters 0-48:
...
+Not enough abstractions in the definition.
+As a mutual fixpoint decreasing on the 1st argument of foo and
+2nd argument of bar:
+Not enough abstractions in the definition.
+As a mutual fixpoint decreasing on the 2nd argument of foo and
+1st argument of bar:
+Not enough abstractions in the definition.
+As a mutual fixpoint decreasing on the 2nd argument of foo and
+2nd argument of bar:
+Not enough abstractions in the definition.
```
Comment (SkySkimmer) [inline test-suite/output/Fixpoint.out:52]: this seems like it would get very long and unreadable as the number of possibilities increases.
It's already kinda bad IMO.

OTOH I don't know how to avoid listing the possibilities since the user didn't say `{struct}` (also I think there's currently no syntax for `{struct}` for `Lemma with`).

File: vernac/declare.ml [hunk 3]
```diff
@@ -1881,6 +1870,53 @@ let prepare_proof ?(warn_incomplete=true) { proof } =
   in
   proofs, Evd.evar_universe_context evd
 
+exception NotGuarded of
+    Environ.env * Evd.evar_map *
+    (Environ.env * int * EConstr.t Type_errors.pcofix_guard_error) option *
+    (Environ.env * int * int list * EConstr.t Type_errors.pfix_guard_error) list *
```
Comment (SkySkimmer) [inline vernac/declare.ml:1876]: Why are we keeping copies of the env?

File: test-suite/output/Fixpoint.out (hunk 2 above)
Comment (herbelin) [reply test-suite/output/Fixpoint.out:52]: With a bit more work, we could factorize the errors which are similar.

On the other side, #19301 adds syntax `{struct}` for `Lemma with` and for `Lemma`. So, an alternative could be to suggest using `struct` to get more information (???).

Comment (SkySkimmer) [reply test-suite/output/Fixpoint.out:52]: We could also extend the Guarded syntax to be able to say eg `Guarded {struct 1, 3} {struct 3, 1}` to mean "test guardedness with 1st fixpoint recursive on 1st arg and 2nd on 3rd arg, and with 1st fixpoint recursive on 3rd arg and 2nd on 1st arg"
that way in the middle of a big proof there is no need to restart it to get a better error

**Comment by SkySkimmer** [comment]
test suite not happy

**Comment by herbelin** [comment]
Adding `-async-proofs off` to see if it makes test-suite:base+async happier (full CI was otherwise ok).

**Comment by ppedrot** [comment]
Isn't this just ignoring the problem? What was the cause for the async failure?

**Comment by SkySkimmer** [comment]
(although in https://gitlab.inria.fr/coq/coq/-/jobs/4572169 it seems it entirely lost some messages so not sure what's going on)

File: test-suite/output/Fixpoint.v [hunk 4]
```diff
@@ -80,3 +82,31 @@ with b2 := b1.
...
+Lemma foo : nat -> nat -> bool
+with bar : nat -> nat -> bool.
+Proof.
+  Fail Guarded. (* not enough abstractions in the definition *)
+  all:intros n m.
+  Guarded.
+  - destruct n as [|n].
+    + exact (bar 0 0).
+      Fail Guarded. (* failure is correct here *)
+      Undo 2.
```
Comment (SkySkimmer) [inline test-suite/output/Fixpoint.v:101]: We should probably use `"-async-proofs-cache" "force"` so that Undo works without repeating the previous messages

Comment (SkySkimmer) [reply test-suite/output/Fixpoint.v:101]: the lack of repeatition with async proofs on is probably what caused the issue

Comment (SkySkimmer) [reply test-suite/output/Fixpoint.v:101]: alternatively write a test without Undo (I guess Abort then repeat the code for the start of the proof)

Comment (herbelin) [reply test-suite/output/Fixpoint.v:101]: OK, then, considering #19383, tell me when you know what the recommended approach will be.

Comment (herbelin) [reply test-suite/output/Fixpoint.v:101]: OK, so a test w/o Undo, right?

Comment (SkySkimmer) [reply test-suite/output/Fixpoint.v:101]: You have the power to choose.

**Comment by ppedrot** [comment]
@coqbot run full ci

**Comment by ppedrot** [comment]
@SkySkimmer if you're happy with the current status I can merge when CI finishes.

**Review by SkySkimmer — APPROVED** [review]

File: test-suite/output/Fixpoint.out (hunk 2 above)
Comment (herbelin) [reply test-suite/output/Fixpoint.out]: > this seems like it would get very long and unreadable as the number of possibilities increases.

> With a bit more work, we could factorize the errors which are similar.

I pushed a new version simplifying a bit the printing so that in the "Not enough abstractions", it is printed only once.

Comment (herbelin) [reply test-suite/output/Fixpoint.out]: > We could also extend the Guarded syntax to be able to say eg Guarded {struct 1, 3} {struct 3, 1}

That's a good idea.

To depart not too much from the existing syntax, we could also say, e.g.: `Guarded {struct 1} {struct 3}` and repeat it for any combination we are interested in??

File: vernac/declare.ml (hunk 3 above)
Comment (herbelin) [reply vernac/declare.ml:1876]: The first env  is the context for the whole declaration. The other envs are the contexts for the respective errors.

File: test-suite/output/Fixpoint.out (hunk 2 above)
Comment (SkySkimmer) [reply test-suite/output/Fixpoint.out]: yes

**Comment by herbelin** [comment]
@coqbot run full ci

File: vernac/declare.ml (hunk 3 above)
Comment (SkySkimmer) [reply vernac/declare.ml:1876]: are they not the same?

File: test-suite/output/Fixpoint.out (hunk 2 above)
Comment (herbelin) [reply test-suite/output/Fixpoint.out]: Do you want me to implement it? (And otherwise, I'd be happy if ever you have some time for it.)

**Comment by ppedrot** [comment]
@coqbot merge now
